US08981111B2
To a stirred solution of 4-methyl-1,3-oxazole-5-carboxylic acid (4.00 g, 31.5 mmol) in thionyl chloride (4 ml) were added 0.4 ml N,N-dimethylformamide and the mixture was refluxed for 2 hours. After cooling, the volatiles were removed in vacuo and the remaining material was suspended in tetrahydrofuran (10 ml). This suspension was added to a stirred suspension of N,O-dimethyl-hydroxylamine hydrochloride (3.38 g, 34.6 mmol) and triethylamine (9.55 g, 94.4 mmol) in tetrahydrofuran (10 ml). The reaction mixture was stirred at room temperature for 20 h. After evaporation of the solvent in vacuo dichloromethane and 1N HCl were added. The phases were separated, the organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. Purification of the crude material on silica gel afforded N-methoxy-N,4-dimethyl-1,3-oxazole-5-carboxamide (2.58 g, 45%) as an orange solid.

reactant | 4-methyl-1,3-oxazole-5-carboxylic acid | 31.5 mmol, 4.00 g | CC=1N=COC1C(=O)O | C5H5NO3
reactant | N,N-dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
reactant | N,O-dimethyl-hydroxylamine hydrochloride | 34.6 mmol, 3.38 g | Cl.CNOC
reactant | triethylamine | 94.4 mmol, 9.55 g | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-methoxy-N,4-dimethyl-1,3-oxazole-5-carboxamide | 2.58 g, 45% | CON(C(=O)C1=C(N=CO1)C)C | C7H10N2O3
